US08492405B2
To a solution of benzyl (5-formyl-2-methyl-3-thienyl)carbamate (1.6 g) in N,N-dimethylformamide (20 mL) was slowly added sodium hydride (60%, oily, 0.3 g) at 0° C., and the mixture was stirred at room temperature for 30 min. Methyl iodide (0.47 mL) was added to the reaction mixture, and the mixture was stirred at room temperature for 1 hr. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The ethyl acetate layer was washed with saturated brine, dried (MgSO4) and concentrated. The residue was subjected to silica gel column chromatography to give benzyl (5-formyl-2-methyl-3-thienyl)methylcarbamate (0.72 g, yield 43%) as a yellow oil from a fraction eluted with ethyl acetate-hexane (1:3, volume ratio).

reactant | benzyl (5-formyl-2-methyl-3-thienyl)carbamate | 1.6 g | C(=O)C1=CC(=C(S1)C)NC(OCC1=CC=CC=C1)=O | C14H13NO3S
reactant | sodium hydride | 0.3 g | [H-].[Na+]
reactant | Methyl iodide | 0.47 mL | CI | CH3I
reactant | Water | O | H2O
reactant | N,N-dimethylformamide | 20 mL | CN(C=O)C | C3H7NO
product | benzyl (5-formyl-2-methyl-3-thienyl)methylcarbamate | 0.72 g, yield 43% | C(=O)C1=CC(=C(S1)C)CNC(OCC1=CC=CC=C1)=O | C15H15NO3S
